US09370522B2
The ester product was obtained via a Suzuki coupling reaction using the method previously shown in Example 13, Step 6, with methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 3,4-dimethoxyphenylboronic acid (80 mg, 0.44 mmol, 1.50 equiv) as reactants. Purification by Prep-TLC (silica gel) yielded 50 mg (44%) of 3-(3,4-dimethoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 3,4-dimethoxyphenylboronic acid | 0.44 mmol, 80 mg, 1.50 equiv | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | 3-(3,4-dimethoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid | 50 mg, 44% | COC=1C=C(C=CC1OC)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C23H18N2O4
